US06897231B2
B. 3-(2H,3H-Benzo[e]1,4-dioxin-6-yl)-1H-indazole-5-carboxamide
A mixture of 3-(2H,3H-benzo[e]1,4-dioxin-6-yl)-1H-indazole-5-carbonitrile (0.230 g, 0.83 mmol), 95% ethanol, aqueous 30% hydrogen peroxide (3 mL), and 6.0 N aqueous sodium hydroxide (1 mL) was heated at 45° C. for 3 h. The reaction mixture was diluted with water (80 mL) and acidified to pH 6 with 3 N hydrochloric acid. The solid was filtered and dried in a vacuum oven and gave the title compound (0.098 g, 50% yield): 1H NMR (DMSO-d6) δ 13.31 (s, 1H), 8.55 (s, 1H), 8.17 (br s, 1H), 7.92 (d, 1H), 7.57 (d, 1H), 7.52 (m, 2H), 7.31 (br s, 1H), 7.02 (d, 1H), 4.32 (s, 4H); ES-MS (m/z) 296 [M+1]+.

reactant | 3-(2H,3H-benzo[e]1,4-dioxin-6-yl)-1H-indazole-5-carbonitrile | 0.83 mmol, 0.230 g | O1CCOC2=C1C=CC(=C2)C2=NNC1=CC=C(C=C21)C#N | C16H11N3O2
reactant | hydrogen peroxide | 3 mL | OO | H2O2
reactant | sodium hydroxide | 6.0 N, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | water | 80 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-(2H,3H-Benzo[e]1,4-dioxin-6-yl)-1H-indazole-5-carboxamide | 0.098 g, 50% yield | O1CCOC2=C1C=CC(=C2)C2=NNC1=CC=C(C=C21)C(=O)N | C16H13N3O3
